US05665754
To a solution of trans-3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-4-(methoxycarbonyl)pyrrolidine (419 mg, 1.0 mmol) in 2 mL of CH2Cl2 at 0° C. was added 2.3 mL of trifluoroacetic acid. The solution was stirred for 12 hr at room temperature, and concentrated to an oil. The oil was dissolved in 2 mL of CH2Cl2 and 4-dimethylaminopyridine 366 mg, 3.0 mmol) was added. To this solution at 0° C. was added trimethylsilylisocyanate (1.15 g, 10.0 mmol). The bath was removed and the resulting mixture was allowed to stir for 60 hr. After dilution with CH2Cl2, the reaction mixture was washed with 1M H3PO4 and brine. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (9:1, CH2Cl2 :methanol) provided a foam. Crystallization with diisopropyl ether afforded trans-1-aminocarbonyl-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine as a white solid (243 mg, 67%), m.p. 127°-129° C. Anal. Calcd for C19H26N2O5 : C, 62.97; H, 7.23; N, 7.73. Found: C, 63.07; H, 7.20; N, 7.76.

reactant | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-4-(methoxycarbonyl)pyrrolidine | 1.0 mmol, 419 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)OC)C(=O)OC(C)(C)C | C23H33NO6
reactant | trifluoroacetic acid | 2.3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trimethylsilylisocyanate | 10.0 mmol, 1.15 g | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.0 mmol, 366 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | trans-1-aminocarbonyl-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine | 243 mg, 67% | NC(=O)N1C[C@H]([C@@H](C1)C(=O)OC)C1=CC(=C(C=C1)OC)OC1CCCC1 | C19H26N2O5
